US09278944B2
(1) Methyl 4-{1-[(tert-butoxycarbonyl)(cyclopropyl)amino]ethyl}-2-(3-methoxypropoxy)benzoate [REx(32-1)]
To a solution of methyl 4-[1-(cyclopropylamino)ethyl]-2-(3-methoxypropoxy)benzoate (1.20 g) in chloroform (9.6 mL) were added di-t-butyl dicarbonate (2.00 g) and triethylamine (2.34 mL) under ice-cooing, and the mixture was stirred at room temperature for 20 hours. To the reaction solution was added water under ice-cooling, and the mixture was extracted with chloroform. The organic layer was dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=10/1→2/1) to give methyl 4-{1-[(tert-butoxycarbonyl(cyclopropyl)amino]ethyl}-2-(3-methoxypropoxy)benzoate (7.62 g) as a colorless oil.

reactant | methyl 4-[1-(cyclopropylamino)ethyl]-2-(3-methoxypropoxy)benzoate | 1.20 g | C1(CC1)NC(C)C1=CC(=C(C(=O)OC)C=C1)OCCCOC | C17H25NO4
reactant | di-t-butyl dicarbonate | 2.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 2.34 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | chloroform | 9.6 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-{1-[(tert-butoxycarbonyl)(cyclopropyl)amino]ethyl}-2-(3-methoxypropoxy)benzoate | C(C)(C)(C)OC(=O)N(C(C)C1=CC(=C(C(=O)OC)C=C1)OCCCOC)C1CC1 | C22H33NO6
